US04410548
Sodium hydride (8.8 g of a 50% w/w dispersion in oil) was added over 30 minutes to a solution of ethanethiol (20.8 g) in dry dimethylformamide at 0°. After evolution of hydrogen had ceased additional ethanethiol (8.8 ml) was added followed by 7,8-dimethoxy-2,3,4,5-tetrahydro-1-benzothiepin-1-oxide. The mixture was heated at reflux for 3 hours, cooled and the solvent was removed in vacuo. The residue was taken up in water (100 ml) and extracted with diethyl ether (2×100 ml). The aqueous solution was acidified with conc. hydrochloric acid, saturated with solid sodium chloride and extracted with chloroform (2×100 ml). The organic extract was dried (Na2SO4) and the solvent was removed in vacuo to give a cream coloured solid. This material was chromatographed on a silica gel column eluting with methylene chloride/methanol mixtures (gradient 0 to 3% v/v methanol) to give the 7-hydroxybenzothiepin (20.7 g), m.p. 165°-166°. Further elution of the column gave, after recrystallisation from methanol, the isomeric 8-hydroxybenzothiepin (2.25 g), m.p. 173°-175°.

reactant | Sodium hydride | [H-].[Na+]
reactant | ethanethiol | 20.8 g | C(C)S | C2H6S
reactant | hydrogen | [H][H] | H2
reactant | ethanethiol | 8.8 ml | C(C)S | C2H6S
reactant | 7,8-dimethoxy-2,3,4,5-tetrahydro-1-benzothiepin-1-oxide | COC=1C(=CC2=C(CCCCS2=O)C1)OC | C12H16O3S
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 7-hydroxybenzothiepin | 20.7 g | OC=1C=CC2=C(C=CC=CS2)C1 | C10H8OS
